US05977381
Preparation of methanesulphonic acid 3,4-bis-methanesulphonyloxy-butyl ester
A solution of 18.1 ml of methanesulphonic acid in 45 ml of ethyl acetate was added dropwise within 2 hours under argon to a solution, cooled to 0-5° C., of 7.96 g of S-1,2,4-butanetriol and 33.5 ml of triethylamine in 90 ml of ethyl acetate. The white suspension was stirred at 0-5° C. for a further 2 hours and thereafter the suspension was filtered and the yellow filtrate was washed in succession with 75 ml of 1N hydrochloric acid, 75 ml of saturated NaHCO3 solution and 75ml of saturated NaCl solution. The organic phase was dried over Na2SO4, filtered and the filtrate was concentrated. 21.79 g of yellow oil were obtained.

reactant | methanesulphonic acid | 18.1 ml | CS(=O)(=O)O | CH4O3S
reactant | triethylamine | 33.5 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 45 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 90 ml | C(C)(=O)OCC | C4H8O2
product | methanesulphonic acid 3,4-bis-methanesulphonyloxy-butyl ester | 21.79 g | CS(=O)(=O)OC(CCOS(=O)(=O)C)COS(=O)(=O)C | C7H16O9S3
